US05039691
2-CARBOMETHOXY-1-TRITYLIMIDAZOLE
To a stirred solution of 12.4 g (40 mmol.) of 1-tritylimidazole in 250 mL of tetrahydrofuran, under argon, at 0° C. was added 20 mL (48 mmol.) of a solution of n-butyl-lithium in hexane. After the solution was allowed to warm to ambient temperature, it was stirred for 1 hour and then 3.4 mL (50 mmol.) of methyl chloroformate was added dropwise. The mixture was stirred for 20 hours at 25° C., 100 mL of water was added and then the mixture was concentrated in vacuo. The residue was extracted with ether. After the extracts were dried (MgSO4) and concentrated, the residue was chromatographed on 200 g of silica using 1:3 ethyl acetate: hexane, followed by 1:1 ethyl acetate: hexane, and finally ethyl acetate to give 3.2 g of colorless product.

reactant | 1-tritylimidazole | 40 mmol, 12.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC=C1 | C22H18N2
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | methyl chloroformate | 50 mmol, 3.4 mL | ClC(=O)OC | C2H3ClO2
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-CARBOMETHOXY-1-TRITYLIMIDAZOLE | 3.2 g | C(=O)(OC)C=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O2
